US07745438B2
(2R,5R)-5-[(1S,2S)-2-(Cyclopentanecarbonylamino)-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester
Stir cyclopentanecarboxylic acid (0.01 mL, 0.12 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCl) (0.02 g, 0.12 mmol) and 1-hydroxybenzotriazole monohydrate (HOBT) (0.02 g, 0.12 mmol) in dichloromethane (1 mL) at room temperature for 30 minutes. Add (2R,5R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester (0.05 g, 0.11 mmol) in dichloromethane (1 mL) and triethylamine (0.06 mL, 0.44 mmol) and stir at room temperature overnight. Wash with saturated aqueous sodium bicarbonate, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 80:20 hexane:ethyl acetate), to give the desired compound as white solid (0.06 g, 98%).

reactant | cyclopentanecarboxylic acid | 0.12 mmol, 0.01 mL | C1(CCCC1)C(=O)O | C6H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.12 mmol, 0.02 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.12 mmol, 0.02 g | O.ON1N=NC2=C1C=CC=C2
reactant | (2R,5R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.11 mmol, 0.05 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)OCC(C)(C)C | C23H36F2N2O5
reactant | triethylamine | 0.44 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (2R,5R)-5-[(1S,2S)-2-(Cyclopentanecarbonylamino)-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.06 g, 98% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(=O)C1CCCC1)O)OCC(C)(C)C | C29H44F2N2O6
